US07402595B2
2-benzyl-6-chloro-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution (45 ml) of 2-benzyl-6-chloro-4-hydroxy-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (4.5 g) in DMF was added sodium hydride (630 mg) at 0° C. with stirring, and the mixture was stirred for 30 min. Then, N-phenyltrifluoromethanesulfonimide (5.6 g) was added and the mixture was stirred at room temperature for 3 hrs. The solvent was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=4/1-1/1) to give the title compound (3.0 g) as colorless crystals.

reactant | 2-benzyl-6-chloro-4-hydroxy-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 45 ml, 4.5 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1O)Cl)=O)CC1=CC=CC=C1 | C18H14ClNO4
reactant | sodium hydride | 630 mg | [H-].[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 5.6 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-benzyl-6-chloro-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 3.0 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1OS(=O)(=O)C(F)(F)F)Cl)=O)CC1=CC=CC=C1 | C19H13ClF3NO6S
